US08124649B2
A solution of POCl3 (0.60 mL, 7.08 mmol) in DMF (0.65 mL, 8.431 mmol) was stirred at rt for 1 h. The reaction was cooled to 0° C. and added 3-methylfuran (490 mg, 5.97 mmol) dropwise. The mixture was stirred at 0 C for 1 h and at 40 C for additional 40 min. The reaction mixture was poured into H2O (25 mL), neutralized (Na2CO3), and extracted with EtOAc (25 mL×5). The organic layer was washed with brine, dried over Na2SO4 and concentrated. The crude material was heated at reflux with oxindole (800 mg, 6.02 mmol) and piperidine (0.60 mL, 8.08 mmol) in EtOH (5 mL) for 3 h. The resulting precipitate was collected by filtration to yield the desired 3-((3-methylfuran-2-yl)methylene)indolin-2-one (340 mg). LCMS (ES): m/z 226 [M+1]+.

reactant | POCl3 | 7.08 mmol, 0.60 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 8.431 mmol, 0.65 mL | CN(C)C=O | C3H7NO
reactant | 3-methylfuran | 5.97 mmol, 490 mg | CC1=COC=C1 | C5H6O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | oxindole | 6.02 mmol, 800 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | piperidine | 8.08 mmol, 0.60 mL | N1CCCCC1 | C5H11N
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | H2O | 25 mL | O | H2O
product | 3-((3-methylfuran-2-yl)methylene)indolin-2-one | 340 mg | CC1=C(OC=C1)C=C1C(NC2=CC=CC=C12)=O | C14H11NO2
